US05210092
A mixture of 3-[4-(5-bromo-3-cyano-1-ethyl-2-pyrrolyl)benzyl]-7-methyl-2-propyl-3H-imidazo[4,5-b]pyridine and 3-[4-(4-bromo-3-cyano-1-ethyl-2-pyrrolyl)benzyl]-7-methyl-2-propyl-3H-imiazo[4,5-b]pyridine was dissolved in methanol (15 ml) and hydrogenated with 10% palladium on charcoal (300 mg) and potassium hydroxide (180 mg) at atmospheric pressure at ambient temperature for two hours. Concentrated hydrochloric acid was added until the pH of the solution was adjusted to 1 and then triethylamine was added until the pH was alkaline. The mixture was filtered through celite and the filtrate was concentrated in vacuo. The residue was chromatographed on silica gel eluted with ethyl acetate to give 3-[4-(3-cyano-1-ethyl-2-pyrrolyl)benzyl]-7-methyl-2-propyl-3H-imidazo[4,5-b]pyridine as a colorless oil.

reactant | 3-[4-(5-bromo-3-cyano-1-ethyl-2-pyrrolyl)benzyl]-7-methyl-2-propyl-3H-imidazo[4,5-b]pyridine | BrC1=CC(=C(N1CC)C1=CC=C(CN2C(=NC=3C2=NC=CC3C)CCC)C=C1)C#N | C24H24BrN5
reactant | potassium hydroxide | 180 mg | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methanol | 15 ml | CO | CH4O
catalyst | palladium on charcoal | 300 mg | [Pd] | Pd
product | 3-[4-(3-cyano-1-ethyl-2-pyrrolyl)benzyl]-7-methyl-2-propyl-3H-imidazo[4,5-b]pyridine | C(#N)C1=C(N(C=C1)CC)C1=CC=C(CN2C(=NC=3C2=NC=CC3C)CCC)C=C1 | C24H25N5
